* MAX6324 MACROMODEL
* ------------------------------
* Revision 0, 5/2008
* ------------------------------
* MAX6324 microprocessor supervisory circuits monitor power supplies and microprocessor activity in digital systems. A watchdog timer looks for activity outside an expected window of operation.
* ------------------------------
* Note:
* The below macromodel is for MAX6324AUT46. For other versions of MAX6324, one needs to go through the following three steps.
*
* 1.Reset Threshold Voltage:
*   For different versions(UT46,UT44,UT31,UT29,UT26,UT23), replace the Voltage source "V_MAX6324_Vrth" value with the corresponding Reset Threshold Voltage
* 2.Watchdog Timeout(Fast):
*   For different versions(AUT,BUT,CUT,DUT,EUT,FUT,GUT,HUT), Calculate Gwf = (0.8E-6)/Tf. Where Tf is the watchdog Timeout(Fast) value.
*   Substitute this 'Gwf' value as the Gain of "G_MAX6324_Gwf" VCCS component.
* 3.Watchdog Timeout(Slow):
*   For different versions(AUT,BUT,CUT,DUT,EUT,FUT,GUT,HUT), Calculate Gws = (0.8E-6)/Ts. Where Ts is the watchdog Timeout(Slow) value.
*   Substitute this 'Gws' value as the Gain of "G_MAX6324_Gws" VCCS component.
* ------------------------------
* Connections
*      1  = MR_BAR
*      2  = GND
*      3  = WDI
*      4  = Vcc
*      5  = WDPO_BAR
*      6  = RESET_BAR
****************
.subckt MAX6324 1 2 3 4 5 6
X_MAX6324_NOR1_M8         MAX6324_NOR1_N69499750 MAX6324_N10456028 VDD VDD
+  pmosmacro
X_MAX6324_NOR1_M9         MAX6324_N104543392 MAX6324_N10833830
+  MAX6324_NOR1_N69499750 VDD pmosmacro
X_MAX6324_NOR1_M10         MAX6324_N104543392 MAX6324_N10456028 2 2 nmosmacro
X_MAX6324_NOR1_M7         MAX6324_N104543392 MAX6324_N10833830 2 2 nmosmacro
D_MAX6324_CO10_D2         2 MAX6324_N11191237 diodemacro_mostideal
G_MAX6324_CO10_G1         MAX6324_N11191237 2 MAX6324_N10796740
+  MAX6324_N106126771 -1E6
D_MAX6324_CO10_D1         MAX6324_N11191237 VDD diodemacro_mostideal
E_MAX6324_E24         MAX6324_N10833830 2 MAX6324_N10839681 2 1
E_MAX6324_E34         MAX6324_N11398067 MAX6324_RESET MAX6324_WDPO 2 1
X_MAX6324_NAND1_M2         MAX6324_N10658726 MAX6324_N10637218 VDD VDD
+  pmosmacro
X_MAX6324_NAND1_M3         MAX6324_N10658726 MAX6324_N11191237
+  MAX6324_NAND1_N6953533 2 nmosmacro
X_MAX6324_NAND1_M4         MAX6324_NAND1_N6953533 MAX6324_N10637218 2 2
+  nmosmacro
X_MAX6324_NAND1_M1         MAX6324_N10658726 MAX6324_N11191237 VDD VDD
+  pmosmacro
E_MAX6324_E23         MAX6324_N108315122 2 MAX6324_N108303991 2 1
E_MAX6324_E25         MAX6324_N112159072 2 MAX6324_N10672281 2 1
D_MAX6324_D2         2 MAX6324_N10321358 diodemacro_ideal
V_MAX6324_Vrth         MAX6324_N37533460 2 4.63V
D_MAX6324_CO5_D2         2 MAX6324_N103165002 diodemacro_mostideal
G_MAX6324_CO5_G1         MAX6324_N103165002 2 MAX6324_N103165000 1 -1E6
D_MAX6324_CO5_D1         MAX6324_N103165002 MAX6324_N103165004
+  diodemacro_mostideal
V_MAX6324_V16         MAX6324_N10347707 2 4.5V
D_MAX6324_D5         2 MAX6324_N10373939 diodemacro_ideal
V_MAX6324_V22         MAX6324_N106237230 2 4V
V_MAX6324_V14         MAX6324_N103348200 2 4V
V_MAX6324_V18         MAX6324_N104484191 2 1.5V
G_MAX6324_G11         MAX6324_N10661837 2 MAX6324_N10658726 2 -1
E_MAX6324_E5         MAX6324_N10325771 2 MAX6324_N10321358 2 1
E_MAX6324_E14         MAX6324_N10428676 MAX6324_N10428422 MAX6324_N104282002 2
+  1
D_MAX6324_D9         MAX6324_N10428672 MAX6324_N10428676 diodemacro_mostideal
G_MAX6324_G4         3 2 MAX6324_N10428676 2 0.4E-6
T_MAX6324_T4         MAX6324_N112159072 2 MAX6324_N11215871 2 Z0=50 TD=50E-9
C_MAX6324_C19         MAX6324_N10637218 2  10n
T_MAX6324_T2         MAX6324_N10776940 2 MAX6324_EDGED 2 Z0=50 TD=50E-9
C_MAX6324_C11         2 MAX6324_N104282002  1n
C_MAX6324_C15         2 MAX6324_N10589461  1u
E_MAX6324_E36         MAX6324_N10603375 2 VDD MAX6324_N11580244 1
C_MAX6324_C16         MAX6324_N10591013 2  1u
D_MAX6324_CO3_D2         2 MAX6324_N10404656 diodemacro_mostideal
G_MAX6324_CO3_G1         MAX6324_N10404656 2 MAX6324_N10325771
+  MAX6324_N103348200 -1E6
D_MAX6324_CO3_D1         MAX6324_N10404656 VDD diodemacro_mostideal
E_MAX6324_E3         MAX6324_N10333075 MAX6324_N10349399 MAX6324_N10404297 2 1
E_MAX6324_E15         MAX6324_N10428422 2 MAX6324_N104282222 2 1
C_MAX6324_C4         2 MAX6324_N10399275  1n
D_MAX6324_D12         MAX6324_N10591013 MAX6324_N11090902 diodemacro_mostideal
D_MAX6324_CO12_D2         2 MAX6324_N10672281 diodemacro_mostideal
G_MAX6324_CO12_G1         MAX6324_N10672281 2 MAX6324_N10661837
+  MAX6324_N10669090 -1E6
D_MAX6324_CO12_D1         MAX6324_N10672281 VDD diodemacro_mostideal
D_MAX6324_D14         2 MAX6324_N10661837 diodemacro_ideal
E_MAX6324_E7         MAX6324_N103375112 MAX6324_N10337594 MAX6324_N3755884 2 1
D_MAX6324_D15         MAX6324_N10661837 VDD diodemacro_ideal
E_MAX6324_E26         MAX6324_WDPO 2 MAX6324_N11215871 2 1
R_MAX6324_R14         MAX6324_N11580244 MAX6324_EDGED  1k
E_MAX6324_E35         MAX6324_N11090902 2 VDD MAX6324_N11427916 1
C_MAX6324_C5         2 MAX6324_N10391953  1n
I_MAX6324_I4         4 2 DC 19.66667uA
G_MAX6324_G3         MAX6324_N10428672 2 MAX6324_N10428676 2 -1E-3
X_MAX6324_M4         MAX6324_N10798120 MAX6324_EDGE MAX6324_N10796740 2
+  nmosmacro
V_MAX6324_V11         MAX6324_N103165004 2 2.5V
C_MAX6324_C2         2 MAX6324_N10373939  1n
C_MAX6324_C6         2 MAX6324_N10404656  10n
D_MAX6324_D3         MAX6324_N10340399 VDD diodemacro_ideal
G_MAX6324_G2         MAX6324_N10373939 2 MAX6324_N10346243 2 -5E-9
D_MAX6324_D10         MAX6324_N10589461 MAX6324_N10603375 diodemacro_mostideal
D_MAX6324_D16         MAX6324_N11427916 VDD diodemacro_mostideal
D_MAX6324_D4         MAX6324_N10373939 MAX6324_N10346243 diodemacro_ideal
V_MAX6324_V21         MAX6324_N106126771 2 4V
E_MAX6324_E12         MAX6324_N103164780 2 4 2 0.7
X_MAX6324_INV1_M1         MAX6324_N108303991 MAX6324_N10456028 VDD VDD
+  pmosmacro
X_MAX6324_INV1_M2         MAX6324_N108303991 MAX6324_N10456028 2 2 nmosmacro
C_MAX6324_C12         2 MAX6324_N10428672  1n
D_MAX6324_CO9_D2         2 MAX6324_N10748008 diodemacro_mostideal
G_MAX6324_CO9_G1         MAX6324_N10748008 2 MAX6324_N10449237
+  MAX6324_N104484191 -1E6
D_MAX6324_CO9_D1         MAX6324_N10748008 VDD diodemacro_mostideal
R_MAX6324_R10         MAX6324_EDGED 2  50
V_MAX6324_V25         VDD 2 5V
R_MAX6324_R1         2 MAX6324_N3755884  50
E_MAX6324_E19         MAX6324_EDGE 2 MAX6324_N10776940 2 1
E_MAX6324_E17         MAX6324_N10456028 2 MAX6324_N10748008 2 1
C_MAX6324_C20         2 MAX6324_N10672281  1n
G_MAX6324_G12         MAX6324_N10661837 2 MAX6324_N10658726 VDD -0.5E-6
E_MAX6324_E22         MAX6324_N10776940 2 MAX6324_N104543392 2 1
R_MAX6324_R11         MAX6324_N10839681 2  50
D_MAX6324_CO7_D2         2 MAX6324_N104282002 diodemacro_mostideal
G_MAX6324_CO7_G1         MAX6324_N104282002 2 3 MAX6324_N104282001 -1E6
D_MAX6324_CO7_D1         MAX6324_N104282002 MAX6324_N104282004
+  diodemacro_mostideal
G_MAX6324_G14         4 2 4 2 1.33333E-6
R_MAX6324_R6         MAX6324_N37562052 MAX6324_N10391953  1
D_MAX6324_D7         MAX6324_N10321358 MAX6324_N10321658 diodemacro_mostideal
R_MAX6324_R2         1 MAX6324_N103173450  85k
C_MAX6324_C1         2 MAX6324_N10321358  1n
T_MAX6324_T3         MAX6324_N108315122 2 MAX6324_N10839681 2 Z0=50 TD=50E-9
D_MAX6324_D13         2 MAX6324_N10591013 diodemacro_mostideal
D_MAX6324_D8         2 MAX6324_N10428672 diodemacro_ideal
E_MAX6324_E4         MAX6324_N10321658 MAX6324_N10316686 MAX6324_N103164782 2 1
E_MAX6324_E1         MAX6324_N37554112 2 MAX6324_N10399275 2 1
E_MAX6324_E37         MAX6324_N103173450 2 4 2 1
E_MAX6324_E13         MAX6324_N10349399 2 MAX6324_N10388477 2 1
D_MAX6324_CO8_D2         2 MAX6324_N104282222 diodemacro_mostideal
G_MAX6324_CO8_G1         MAX6324_N104282222 2 3 MAX6324_N10645328 -1E6
D_MAX6324_CO8_D1         MAX6324_N104282222 MAX6324_N104282004
+  diodemacro_mostideal
V_MAX6324_V13         MAX6324_N103241791 2 0.4V
C_MAX6324_C13         2 MAX6324_N10748008  1u
D_MAX6324_D11         2 MAX6324_N10589461 diodemacro_mostideal
V_MAX6324_V23         MAX6324_N10669090 2 2.5V
G_MAX6324_G1         MAX6324_N10321358 2 MAX6324_N10321658 2 -0.8E-3
T_MAX6324_T1         MAX6324_N37554112 2 MAX6324_N3755884 2 Z0=50 TD=20E-6
V_MAX6324_V19         MAX6324_N10645328 2 0.8V
D_MAX6324_CO1_D2         2 MAX6324_N10399275 diodemacro_mostideal
G_MAX6324_CO1_G1         MAX6324_N10399275 2 MAX6324_N37533460 4 -1E6
D_MAX6324_CO1_D1         MAX6324_N10399275 VDD diodemacro_mostideal
X_MAX6324_M2         6 MAX6324_RESET 2 2 nmosmacro_pd
E_MAX6324_E10         MAX6324_N10316686 2 MAX6324_N103165002 2 1
E_MAX6324_E29         MAX6324_N10798120 2 MAX6324_N10589461 2 1
E_MAX6324_E33         MAX6324_N113623572 MAX6324_EDGED MAX6324_N11398067 2 1
R_MAX6324_R13         MAX6324_N11427916 MAX6324_N113623572  1k
C_MAX6324_C21         2 MAX6324_N10796740  1p
E_MAX6324_E16         MAX6324_N10449237 2 MAX6324_N10428672 2 1
C_MAX6324_C17         2 MAX6324_N10661837  1n
V_MAX6324_V15         MAX6324_N103403091 2 5V
D_MAX6324_D6         MAX6324_N10391953 VDD diodemacro_mostideal
X_MAX6324_INV2_M1         MAX6324_N10805864 MAX6324_EDGE VDD VDD pmosmacro
X_MAX6324_INV2_M2         MAX6324_N10805864 MAX6324_EDGE 2 2 nmosmacro
C_MAX6324_C18         2 MAX6324_N11191237  10n
I_MAX6324_I3         6 2 DC 1uA
G_MAX6324_G13         MAX6324_N10589461 2 MAX6324_N11398067 2 -1
D_MAX6324_D17         MAX6324_N11580244 VDD diodemacro_mostideal
R_MAX6324_R3         MAX6324_N10340399 MAX6324_N103375112  50
V_MAX6324_V12         MAX6324_N103164784 2 2.5V
X_MAX6324_M3         VDD MAX6324_N10805864 MAX6324_N10796740 2 nmosmacro
R_MAX6324_R12         MAX6324_N11215871 2  50
C_MAX6324_C10         2 MAX6324_N104282222  1n
D_MAX6324_CO11_D2         2 MAX6324_N10637218 diodemacro_mostideal
G_MAX6324_CO11_G1         MAX6324_N10637218 2 MAX6324_N106237230
+  MAX6324_N10591013 -1E6
D_MAX6324_CO11_D1         MAX6324_N10637218 VDD diodemacro_mostideal
G_MAX6324_Gwf         MAX6324_N10589461 2 MAX6324_N10603375 2 -8E-4
E_MAX6324_E8         MAX6324_N10346243 2 MAX6324_N10340399 MAX6324_N103403091
+  -1
C_MAX6324_C8         2 MAX6324_N103165002  1n
G_MAX6324_Gws         MAX6324_N10591013 2 MAX6324_N11090902 2 -8E-5
E_MAX6324_E11         MAX6324_N103165000 2 4 2 0.3
C_MAX6324_C3         2 MAX6324_N10388477  10n
X_MAX6324_M1         5 MAX6324_N10672281 2 2 nmosmacro_pd
E_MAX6324_E2         MAX6324_N37562052 MAX6324_N10333075 MAX6324_N3755884 2 1
E_MAX6324_E9         MAX6324_RESET 2 MAX6324_N10391953 2 1
D_MAX6324_CO2_D2         2 MAX6324_N10404297 diodemacro_mostideal
G_MAX6324_CO2_G1         MAX6324_N10404297 2 MAX6324_N10325771
+  MAX6324_N103241791 -1E6
D_MAX6324_CO2_D1         MAX6324_N10404297 VDD diodemacro_mostideal
I_MAX6324_I2         2 3 DC 1uA
V_MAX6324_V20         MAX6324_N104282004 2 2.5V
D_MAX6324_CO6_D2         2 MAX6324_N10388477 diodemacro_mostideal
G_MAX6324_CO6_G1         MAX6324_N10388477 2 MAX6324_N10347707
+  MAX6324_N10373939 -1E6
D_MAX6324_CO6_D1         MAX6324_N10388477 VDD diodemacro_mostideal
C_MAX6324_C7         2 MAX6324_N10404297  1u
E_MAX6324_E6         MAX6324_N10337594 2 MAX6324_N10404656 2 1
I_MAX6324_I1         5 2 DC 1uA
D_MAX6324_CO4_D2         2 MAX6324_N103164782 diodemacro_mostideal
G_MAX6324_CO4_G1         MAX6324_N103164782 2 MAX6324_N103164780 1 -1E6
D_MAX6324_CO4_D1         MAX6324_N103164782 MAX6324_N103164784
+  diodemacro_mostideal
C_MAX6324_C9         2 MAX6324_N103164782  1n
E_MAX6324_E18         MAX6324_N104282001 2 4 2 0.75
.IC         V(MAX6324_N10591013 )=0
.IC         V(MAX6324_N10661837 )=0
******************
.model diodemacro_ideal d(n=0.001)
.model diodemacro_mostideal d(IS=1E-12 N=0.000001 BV=35 IBV=1)
.ends MAX6324
******************
.subckt nmosmacro d g s b
m1 d g s b nmos
.model nmos nmos(VTO=0.5 KP=100E-6 w=2u l=1u)
.ends
***********
.subckt nmosmacro_pd d g s b
m1 d g s b nmos
.model nmos nmos(VTO=0.5 KP=100E-6 w=25u l=1u)
.ends
***********
.subckt pmosmacro d g s b
m1 d g s b pmos
.model pmos pmos(VTO=-0.5 KP=50E-6 w=4u l=1u)
.ends
******************
*Note:
**       Macro model is developed using the typical device parameters given in the data sheet with Vcc = 5V power supply.  Model does not take care of the device non-linearity with temperature variations.  Model characteristics may not match actual device behavior at abnormal operating conditions.

* Copyright (c) 2003-2012 Maxim Integrated Products.  All Rights Reserved.
